* C:\Users\cli942\OneDrive - The University of Auckland\Documents\GitHub\EE310_Group9_Water-Level-Sensor\Draft for receiver.asc
* Generated by LTspice 26.0.1 for Windows.
D1 vsquare N007 1N4148
C1 N008 N007 10f
R1 N008 N007 1k
R2 0 N008 1k
V1 vp 0 PULSE(0 500 0 0.01u 0.01u 2m 10m 100000)
R3 N009 N008 1k
X§U1 N009 v1 v2 0 N006 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R4 v2 N006 1k
R5 N010 N006 1k
C2 N010 0 1nf
R6 N006 N009 1k
V2 v1 0 5
V3 v2 0 10
R7 N005 vin 1k
X§U2 N005 v1 v2 0 vsquare level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R8 v2 vsquare 1k
R9 vsquare N005 1k
R10 v1 N003 1k
R11 v1 N001 1k
R12 vin N001 1k
X§U3 N003 N001 v2 0 vin level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
C3 N003 vpd 1µ
X§U4 v1 N002 v2 0 vpd level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R13 vpd N002 100k
C4 vpd N002 10p
I2 0 N004 PULSE(0 10u 0 1m 1m 5m 10m)
R14 N002 0 1k
C5 N002 0 1µ
I1 N002 0 PULSE(0 10u 0 1m 1m 5m 10m)
.model D D
.lib C:\Users\cli942\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 10
* Library below included based on ModelFile attribute of instance X§U1, X§U2, X§U3, X§U4 (C:\Users\cli942\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
