* C:\EE310_Group9_Water-Level-Sensor\Phase3_Receiver\555 timer based receiver.asc
* Generated by LTspice 26.0.1 for Windows.
Cpd1 Vdiode 5V 4p
Rpd1 Vdiode 5V 200Meg
I1 5V Vdiode PULSE(0 0.1u 0 10n 10n 111u 333u 0)
R1 N011 V_bias 82k
R2 N009 V_bias 1k
X§U1 N011 N009 5V 0 V_IN_RX TLC081 ;§pnba In+)In-)V+)V-)OUT
C1 N011 Vdet1 10n
R3 V_IN_RX N009 100k
X§U2 N013 V_bias 5V 0 V_SQ TLC081 ;§pnba In+)In-)V+)V-)OUT
R4 N013 V_IN_RX 100
R5 V_SQ N013 100k
V1 5V 0 5
C2 5V 0 100n
R6 Vdiode 0 220k
X§U3 Vdiode N012 5V 0 Vdet1 TLC081 ;§pnba In+)In-)V+)V-)OUT
R7 Vdet1 N012 10k
X§U4 N003 N001 5V 0 N002 TLC081 ;§pnba In+)In-)V+)V-)OUT
R8 N002 N001 10k
R9 N003 0 10k
R10 V_bias N002 10k
R11 N003 5V 10k
R12 N012 0 1k
C3 Vdet1 N012 56p
C5 N003 0 1.5n
C6 V_bias 0 1.5n
X§U5 0 N005 Vfilter555 5V P001 Vrc Vrc 5V NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
R13 5V Vrc 22k
C7 Vrc 0 1n
D1 N005 5V D
R14 5V N005 1k
C8 N005 N004 1n
R15 N004 V_SQ 10
C9 0 P001 100n
X§U6 N010 N008 5V 0 N007 TLC081 ;§pnba In+)In-)V+)V-)OUT
R16 N010 5V 330k
R17 0 N010 220k
C10 5V 0 3.9n
C11 N007 N008 10n
R18 N008 N006 10k
C12 N006 0 10n
R19 N007 N006 390k
R20 N006 Vfilter555 680k
R21 Vout555 N007 82k
C13 Vout555 0 10n
.model D D
.lib C:\Users\realh\AppData\Local\LTspice\lib\cmp\standard.dio
.lib LM324.lib
* .tran 0 18ms 0 10u
.lib LTC.lib
.include TLC081.mod
* Receiver (Rx) Designs
.lib LM324.lib
.tran 0 25ms 0 10u
.lib LTC.lib
.include TLC081.mod
* Input conditioning
* Input signal conditioning w/ high pass filter
* comparator for square wave
* SFH 203 P characteristics:\n400-1100 nm\nC_0 = 4pF @ 2V, 3.5pF @ 5V\nIp = 9uA @ 1k lx\nIp = 100nA @ low light\nI_R = 1-5 nA @ V_R = 20V\nR_leak = 20/5n = 4x10^9 Ohms
* Cutoff frequency f_0 =1/(2 pi R_F C_F)
* frequency range of 3k to 30k
* Gain of 15
* high pass filter fc approx 200Hz to get rid of dc\nlow pass filter fc approx 300kHz
* 2.5 Bias
* Transimpedance amp + photo diode
* Difference amp
* low pass filter fc approx 300kHz
* Gain of 2
* max Vpp approx 1.08 (9u x 120k)
* frequency range of 3khz to 30khz
* Library below included based on ModelFile attribute of instance X§U5 (C:\Users\realh\AppData\Local\LTspice\lib\sym\Misc\NE555.asy)
.lib NE555.sub
.backanno
.end
